US07696352B2
A mixture of 3-(azidomethyl)-1-(4-iodophenyl)-1H-pyrazole (100 mg, 0.31 mmol) and Ra—Ni (50% aq. slurry, 150 mg) in MeOH (8 mL) was hydrogenated under balloon H2 for 3 hrs. It was filtered through celite. The filtrate was concentrated in vacuo to give (1-(4-iodophenyl)-1H-pyrazol-3-yl)methanamine (78 mg).

reactant | 3-(azidomethyl)-1-(4-iodophenyl)-1H-pyrazole | 0.31 mmol, 100 mg | N(=[N+]=[N-])CC1=NN(C=C1)C1=CC=C(C=C1)I | C10H8IN5
solvent | MeOH | 8 mL | CO | CH4O
catalyst | Ra—Ni | 150 mg | [Ni] | Ni
product | (1-(4-iodophenyl)-1H-pyrazol-3-yl)methanamine | 78 mg | IC1=CC=C(C=C1)N1N=C(C=C1)CN | C10H10IN3
